US05077409
4-[[[4-(Tetradecyloxy)phenyl]methyl]amino]benzenemethanol
To a suspension of 13 g of N-[4-(hydroxymethyl]phenyl]-4-(tetradecyloxy)benzamide in 250 ml of tetrahydrofuran is added dropwise with stirring under argon 59.14 ml of 1 molar lithium aluminum hydride in tetrahydrofuran. The mixture is stirred at room temperature for 0.5 hours and refluxed for 5 hours. Ethyl acetate is added dropwise followed by water. The mixture is filtered and the cake washed with ether. The filtrate is evaporated to a residue which is purified by chromatography on silica gel with 2:1 chloroform:hexane to give the desired product.

reactant | N-[4-(hydroxymethyl]phenyl]-4-(tetradecyloxy)benzamide | 13 g | OCC1=CC=C(C=C1)NC(C1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | C28H41NO3
reactant | lithium aluminum hydride | 1 molar | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 4-[[[4-(Tetradecyloxy)phenyl]methyl]amino]benzenemethanol | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)CNC1=CC=C(C=C1)CO | C28H43NO2
